US05665718
1.19 g (3 mmol) of 3-(5-chloromethyl-1,2,4-oxa-diazol-3-yl)-5-methyl-7-trifluoromethyl-5,6-dihydro-4H-imidazo [1,5-a ][1,4]benzodiazepine-6-one were stirred at room temperature overnight with 5.3 g (90 mmol) of propylamine and 10 ml of N,N-dimethylformamide. After evaporating the reaction mixture the residue was dissolved in methylene chloride and the solution was washed with water. By drying the organic phase over magnesium sulfate and evaporating the solvent there was obtained 0.84 g (67%) of 5-methyl-3-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-7-trifluoromethyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, which was converted into the hydrochloride of m.p. 234°-237°.

reactant | 3-(5-chloromethyl-1,2,4-oxa-diazol-3-yl)-5-methyl-7-trifluoromethyl-5,6-dihydro-4H-imidazo [1,5-a ][1,4]benzodiazepine-6-one | 3 mmol, 1.19 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1C(F)(F)F)=O)C | C16H11ClF3N5O2
reactant | propylamine | 90 mmol, 5.3 g | C(CC)N | C3H9N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-methyl-3-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-7-trifluoromethyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.84 g, 67% | CN1CC=2N(C3=C(C1=O)C(=CC=C3)C(F)(F)F)C=NC2C2=NOC(=N2)CNCCC | C19H19F3N6O2
